data/polar.json
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[C:5]([NH-:6])#[N:17].[cH:1]1[c:7]([CH+:20][c:8]2[cH:2][c:11]([F:15])[cH:19][c:12]([F:16])[cH:3]2)[cH:4][c:9]([F:13])[cH:18][c:10]1[F:14]>>[cH:1]1[c:7]([CH:20]([NH:6][C:5]#[N:17])[c:8]2[cH:2][c:11]([F:15])[cH:19][c:12]([F:16])[cH:3]2)[cH:4][c:9]([F:13])[cH:18][c:10]1[F:14]", "epd": [["LP-/Sigma+", [6], [6, 20]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:1][C:5]([CH3:2])=[N+:12]([O-:18])[O-:19].[cH:3]1[cH:10][cH:4][c:6]2[c:11]([o+:7][c:9](-[c:20]3[cH:15][cH:13][cH:21][cH:14][cH:16]3)[cH:8][cH:17]2)[cH:22]1>>[CH3:1][C:5]([CH3:2])([N+:12](=[O:18])[O-:19])[CH:17]1[c:6]2[cH:4][cH:10][cH:3][cH:22][c:11]2[O:7][C:9]([c:20]2[cH:15][cH:13][cH:21][cH:14][cH:16]2)=[CH:8]1", "epd": [["LP-/Pi+", [18], [12, 18]], ["Pi-/Sigma+", [5, 12], [5, 17]], ["Pi-/Pi+", [17, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Wittig reaction", "rsmi": "[C:1](=[O:3])([CH2:4][OH:10])[H:5].[CH2:2]=[P:9]([CH3:6])([CH3:7])[CH3:8]>>[C:1](=[CH2:2])([CH2:4][OH:10])[H:5].[O:3]=[P:9]([CH3:6])([CH3:7])[CH3:8]", "epd": [["Pi-/Sigma+", [1, 3], [1, 2]], ["Pi-/Sigma+", [2, 9], [3, 9]], ["Sigma-/Pi+", [1, 3], [3, 9]], ["Sigma-/Pi+", [2, 9], [1, 2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:42](=[O:2])([c:23]1[cH:7][cH:17][c:27]([CH3:43])[cH:18][cH:8]1)[n:28]1[cH:20][c:25]([N+:24](=[O:10])[O-:11])[c:26]2[cH:16][cH:32][c:19]([N+:38](=[O:33])[O-:36])[cH:6][c:29]21.[cH:3]1[cH:12][c:37]([CH:5]=[C:44]2[CH:39]=[CH:21][C:34](=[N+:35]([O-:30])[O-:31])[CH:22]=[CH:40]2)[cH:13][cH:4][c:14]1[N+:41](=[O:9])[O-:15]>>[O:1]=[S:42](=[O:2])([c:23]1[cH:7][cH:17][c:27]([CH3:43])[cH:18][cH:8]1)[N:28]1[CH:20]([CH:5]([c:37]2[cH:12][cH:3][c:14]([N+:41](=[O:9])[O-:15])[cH:4][cH:13]2)[c:44]2[cH:39][cH:21][c:34]([N+:35](=[O:30])[O-:31])[cH:22][cH:40]2)[C:25](=[N+:24]([O-:10])[O-:11])[c:26]2[cH:16][cH:32][c:19]([N+:38](=[O:33])[O-:36])[cH:6][c:29]21", "epd": [["LP-/Pi+", [30], [35, 30]], ["Pi-/Pi+", [34, 35], [21, 34]], ["Pi-/Pi+", [39, 21], [44, 39]], ["Pi-/Sigma+", [5, 44], [5, 20]], ["Pi-/Pi+", [20, 25], [25, 24]], ["Pi-/LP+", [24, 10], [10]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[S:6]1(=[O:26])(=[O:27])[c:18]2[c:10]([cH:13][cH:9][cH:20][cH:12]2)[C:25]([O-:11])=[N:22]1.[c:1]12[c:4]([cH:16][cH:14][cH:23][cH:7]1)-[c:5]1[c:2]([cH:8][cH:24][cH:15][cH:17]1)[N+:21]2=[CH:3][CH3:19]>>[c:1]12[c:4]([c:5]3[c:2]([cH:8][cH:24][cH:15][cH:17]3)[n:21]1[CH:3]([CH3:19])[N:22]1[S:6](=[O:26])(=[O:27])[c:18]3[c:10]([cH:13][cH:9][cH:20][cH:12]3)[C:25]1=[O:11])[cH:16][cH:14][cH:23][cH:7]2", "epd": [["LP-/Pi+", [11], [25, 11]], ["Pi-/Sigma+", [22, 25], [22, 3]], ["Pi-/LP+", [3, 21], [21]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:7](=[O+:26][CH3:25])[c:28]1[cH:21][cH:18][cH:12][cH:19][cH:22]1.[N:1]1([CH3:6])[C:4](=[C:14]([c:3]2[cH:10][cH:16][cH:8][cH:17][cH:11]2)[O:27][CH3:13])[S:9][c:20]2[cH:2][cH:5][cH:24][cH:15][c:23]21>>[n+:1]1([CH3:6])[c:4]([C:14]([c:3]2[cH:10][cH:16][cH:8][cH:17][cH:11]2)([CH:7]([O:26][CH3:25])[c:28]2[cH:21][cH:18][cH:12][cH:19][cH:22]2)[O:27][CH3:13])[s:9][c:20]2[cH:2][cH:5][cH:24][cH:15][c:23]12", "epd": [["LP-/Pi+", [1], [4, 1]], ["Pi-/Sigma+", [14, 4], [14, 7]], ["Pi-/LP+", [7, 26], [26]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:9]1[cH:7][c:12]([N+:19](=[O:6])[O-:23])[cH:20][c:8]2[c:25]1[n:17][o:24][n+:28]2[O-:3])[O-:13].[cH:4]1[cH:14][cH:10][c:21]2[c:5]([cH:26]1)[CH:27]([Zn-:18]([Cl:15])[Cl:16])[CH:22]=[CH:11]2>>[Cl:15][Zn:18][Cl:16].[N+:1](=[O:2])([C:9]1=[CH:7][C:12](=[N+:19]([O-:6])[O-:23])[CH:20]([CH:27]2[c:5]3[c:21]([cH:10][cH:14][cH:4][cH:26]3)[CH:11]=[CH:22]2)[c:8]2[c:25]1[n:17][o:24][n+:28]2[O-:3])[O-:13]", "epd": [["Sigma-/Sigma+", [27, 18], [27, 20]], ["Pi-/Pi+", [20, 12], [12, 19]], ["Pi-/LP+", [19, 6], [6]]]}
{"reaction_name": "Sulfonamide formation", "rsmi": "[NH2:3][H:7].[O:1]=[S:5](=[O:2])([CH3:4])[Cl:6]>>[Cl:6][H:7].[O:1]=[S:5](=[O:2])([NH2:3])[CH3:4]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Pi-/LP+", [1, 5], [1]], ["LP-/Pi+", [1], [1, 5]], ["Sigma-/LP+", [5, 6], [6]], ["LP-/Sigma+", [6], [6, 7]], ["Sigma-/LP+", [3, 7], [3]]]}
{"reaction_name": "Allylic bromination by NBS", "rsmi": "[CH2:1]=[CH:12][CH2:4][H:9].[O:2]=[C:6]1[N:8]([Br:5])[C:7](=[O:3])[CH2:11][CH2:10]1>>[CH2:1]=[CH:12][CH2:4][Br:5].[O:2]=[C:6]1[N:8]([H:9])[C:7](=[O:3])[CH2:11][CH2:10]1", "epd": [["LP-/Sigma+", [8], [8, 9]], ["Sigma-/LP+", [4, 9], [4]], ["LP-/Sigma+", [4], [4, 5]], ["Sigma-/LP+", [5, 8], [8]]]}
